US09233983B2
Step-I: tert-butyl 4-(4-iodopyrazol-1-yl)piperidine-1-carboxylate (Va-1-I)
NaH (60% suspension, 1.13 g, 28.4 mmol) was added portion wise to a solution of 4-iodopyrazole (5 g, 25.7 mmol) in anhydrous DMF (30 mL) at 0° C.; and it was stirred for 1 h. Finally, tert-butyl 4-mesylpiperidine-1-carboxylate (CAS: 141699-59-4) (6.5 g, 32.7 mmol) was added to the reaction mixture and it was stirred at 100° C. for 16 h. It was, then, cooled and quenched with saturated solution of NH4Cl (100 mL). Extraction was carried out using EtOAc (50 mL×2); the combined organic layers were washed with water (100 mL); brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to provide crude product, which was further purified by silica gel column chromatography (20% EtOAc in hexanes) to give title compound Va-1-I (4 g, 41%). LCMS: m/z 378.1 (M+1)+.

reactant | NaH | 28.4 mmol, 1.13 g | [H-].[Na+]
reactant | 4-iodopyrazole | 25.7 mmol, 5 g | IC=1C=NNC1 | C3H3IN2
reactant | tert-butyl 4-mesylpiperidine-1-carboxylate | 32.7 mmol, 6.5 g | S(=O)(=O)(C)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO4S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-iodopyrazol-1-yl)piperidine-1-carboxylate | IC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20IN3O2
